US07259266B2
7-[4-(2-Carboxyethyl)phenoxy]-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
Using the two step parallel synthesis route from ethyl 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate and methyl 3-(4-hydroxyphenyl)propionate, a mixture of two components was obtained. The two products were separated by reverse phase chromatography (C18, 4 cm i.d.×10 cm, 5% to 95% gradient CH3CN/H2O/0.1%TFA). The less retained component (analytical LC retention time=3.40 min, ELS purity >99%) was concd in vacuo to afford 61.1 mg (27.6%) of a white solid: 1H NMR (d6-acetone/400 MHz) 2.59 (t, 2H, J=7.6 Hz), 2.92 (t, 2H, J=7.6 Hz), 5.78 (q, 1H, J=7.1 Hz), 7.04 (d, 2H, J=8.6 Hz), 7.36 (d, 2H, J=8.6 Hz), 7.66 (s, 1H), 7.82 (s, 1H); 19F NMR (d6-acetone/100 MHz) −79.2 (d, 3F, J=6.8 Hz); MS(ES+) 443 (75%, M+1), 465 (100%, M+Na); MS(ES−) 441 (M−1, 100); HRMS (ES−) m/z calcd for (M−1; C20H13O6ClF3) 441.0347, found 441.0347.

reactant | ethyl 6-chloro-7-fluoro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1F)C(F)(F)F)C(=O)OCC | C13H9ClF4O3
reactant | methyl 3-(4-hydroxyphenyl)propionate | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
product | 7-[4-(2-Carboxyethyl)phenoxy]-6-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 61.1 mg, 27.6% | C(=O)(O)CCC1=CC=C(OC2=C(C=C3C=C(C(OC3=C2)C(F)(F)F)C(=O)O)Cl)C=C1 | C20H14ClF3O6
